US05254581
Using a similar procedure to that described in Example 1, 4-mercapto-4-[3-(naphth-2-ylmethoxy)phenyl]tetrahydropyran was reacted with 2,2,2-trifluoroethyl iodide to give 4-[3-(naphth-2-ylmethoxy)phenyl]-4-(2,2,2-trifluoroethylthio)tetrahydropyran in 61% yield, m.p. 76°-78° C.

reactant | 4-mercapto-4-[3-(naphth-2-ylmethoxy)phenyl]tetrahydropyran | SC1(CCOCC1)C1=CC(=CC=C1)OCC1=CC2=CC=CC=C2C=C1 | C22H22O2S
reactant | 2,2,2-trifluoroethyl iodide | FC(CI)(F)F | C2H2F3I
product | 4-[3-(naphth-2-ylmethoxy)phenyl]-4-(2,2,2-trifluoroethylthio)tetrahydropyran | 61% yield | C1=C(C=CC2=CC=CC=C12)COC=1C=C(C=CC1)C1(CCOCC1)SCC(F)(F)F | C24H23F3O2S
